US05332822
A. 3-Methyl-8-quinolinesulfonyl chloride
To 9.0 mL (135 mmol, Fisher) of chlorosulfonic acid was added dropwise with stirring at room temperature 5.00 g (35.0 mmol, Lancaster) of 3-methyl-quinoline over ~5 minutes. The addition was exothermic. The resulting dark solution was heated to 140°-145°, stirring for 5 h, then cooled to 125°. To the cooled reaction mixture was added dropwise over 15 rain 3.3 mL (45 mmol, Mallinckrodt) of thionyl chloride, and the reaction mixture was then heated to 1400 for 1 h. The reaction mixture was cooled to room temperature, then cooled in an ice-bath and added slowly to 50 g of ice. Chloroform (50 mL) was added to the resulting slurry and stirred until the ice melted to give two layers. The aqueous layer was separated and extracted with 30 mL of chloroform. The chloroform layers were combined, washed with two-50 mL portions of 5% aqueous sodium bicarbonate solution, 50 mL of water, dried (sodium sulfate) and concentrated in vacuo to give 4.6 g of a crude light brown solid. The crude material was recrystallized (~20 mL toluene), and the crystals were washed with hexane and dried in vacuo to afford 2.89 g (12.0 mmol, 34%) of title compound as small pale brown crystals, mp 158°-159°.

reactant | chlorosulfonic acid | 135 mmol, 9.0 mL | ClS(=O)(=O)O | ClHO3S
reactant | 3-methyl-quinoline | 35.0 mmol, 5.00 g | CC=1C=NC2=CC=CC=C2C1 | C10H9N
reactant | thionyl chloride | 45 mmol, 3.3 mL | S(=O)(Cl)Cl | Cl2OS
solvent | Chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-Methyl-8-quinolinesulfonyl chloride | 12.0 mmol, 2.89 g, 34% | CC=1C=NC2=C(C=CC=C2C1)S(=O)(=O)Cl | C10H8ClNO2S
